US04273776
A. 2-Chloro-1-(2,4-dichlorophenyl)-3-hydroxy-2-propen-1-one
The above starting material is prepared according to the literature method of Example 1A by reacting 2-chloro-1-(2,4-dichlorophenyl)-ethan-1-one with ethyl formate, m.p. 162°.

reactant | 2-chloro-1-(2,4-dichlorophenyl)-ethan-1-one | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | 2-Chloro-1-(2,4-dichlorophenyl)-3-hydroxy-2-propen-1-one | ClC(C(=O)C1=C(C=C(C=C1)Cl)Cl)=CO | C9H5Cl3O2
